US07399759B2
3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionitrile
6-(2-Cyanoethyl)-2-pyridinecarbonitrile (0.28 g, 1.8 mmol) and methyl thiosalicylate (0.36 g, 2.1 mmol) were dissolved in toluene (2 ml), and triethylamine (0.37 ml, 2.7 mmol) was added thereto. The reaction mixture was refluxed for 6 hrs and kept at room temperature. The precipitated crystals were collected, washed with toluene and recrystallized from ethanol to give the titled compound (0.28 g, 54%) as white crystals.

reactant | 6-(2-Cyanoethyl)-2-pyridinecarbonitrile | 1.8 mmol, 0.28 g | C(#N)CCC1=CC=CC(=N1)C#N | C9H7N3
reactant | methyl thiosalicylate | 2.1 mmol, 0.36 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 2.7 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionitrile | 0.28 g, 54% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC#N | C16H11N3OS
